spice
* SPICE Netlist for the given circuit

VDD 6 0 DC VDD
VSS 0 4 DC VSS

IREF1 2 0 DC IREF1_value
IREF2 4 3 DC IREF2_value
VIC 5 4 DC VIC_value

M1 5 5 4 4 NMOS
M3 6 5 2 2 PMOS
M5 2 2 2 2 PMOS
M6 4 3 4 4 NMOS
M8 4 5 4 4 NMOS

.model NMOS NMOS (LEVEL=1)
.model PMOS PMOS (LEVEL=1)

.ends